US06159964
a) tert-Butyl [6-[[[2-[(Pyridin-2-yl)amino]ethyl]carbonyl]amino]tetralin-2-yl]acetate
Following the procedure of Example 32(a), except substituting tert-butyl (6-amino-tetralin-2-yl)acetate, Fisher, et. al., EO 0635492, Scheme 12 and Example 28, parts A-D, for the compound of Preparation O(d) and substituting N-(2-pyridinyl)-β-alanine, Chowdhary, et. al., Indian J. Chem., 1990, 29A, 280-284, for the compound of Preparation V, gives the title compound.

reactant | tert-butyl (6-amino-tetralin-2-yl)acetate | NC=1C=C2CCC(CC2=CC1)CC(=O)OC(C)(C)C | C16H23NO2
reactant | N-(2-pyridinyl)-β-alanine | N1=C(C=CC=C1)NCCC(=O)O | C8H10N2O2
product | tert-Butyl [6-[[[2-[(Pyridin-2-yl)amino]ethyl]carbonyl]amino]tetralin-2-yl]acetate | N1=C(C=CC=C1)NCCC(=O)NC=1C=C2CCC(CC2=CC1)CC(=O)OC(C)(C)C | C24H31N3O3
